US05079363
(a) 2-chloro 3-(1,1-dimethyl-2-hydroxy-ethyl)aminocarbonyl pyridine
134 ml (1.4 mole) of 2-amino 2-methyl propanol are dissolved in 600 ml of a dichloroethane/tetrahydrofuran mixture (85/15 v/v) and the solution is cooled in an ice/sodium chloride bath. 70.4 g (0.4 mole) of 2-chloro nicotinic acid chloride, prepared as described in Example 1 and dissolved in 770 ml of a dichloromethane/tetrahydrofuran mixture (85/15 v/v) are added such that the temperature is maintained at or below 0° C.

reactant | 2-amino 2-methyl propanol | 1.4 mole, 134 ml | NC(CO)(C)C | C4H11NO
reactant | 2-chloro nicotinic acid chloride | 0.4 mole, 70.4 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | dichloroethane tetrahydrofuran | 600 ml | ClC(C)Cl.O1CCCC1
solvent | dichloromethane tetrahydrofuran | 770 ml | ClCCl.O1CCCC1
product | 2-chloro 3-(1,1-dimethyl-2-hydroxy-ethyl)aminocarbonyl pyridine | ClC1=NC=CC=C1C(=O)NC(CO)(C)C | C10H13ClN2O2
